US07425568B2
2-(4Ethylphenyl)chroman-4,6-diol was prepared as described for 2-phenylchroman-4,6-diol in Example 8(a) starting from 474 mg of 2-(4-ethylphenyl)-6-hydroxychroman-4one. 1H NMR (400 MHz, d6-DMSO) δ: 8.81 (s, 1H), 7.34 (d, 2H, J 8.0 Hz), 7.22 (d, 2H, J 8.0 Hz), 6.88 (d, 1H, J 2.8 Hz), 6.57 (d, 1H, J 8.6 Hz), 6.53 (dd, 1H, J 8.6, 2.8 Hz), 5.39 (d, 1H, J 7.1 Hz), 5.06 (d, 1H, J 10.7 Hz), 4.86 (m, 1H), 2.61 (q, 2H, J 7.6 Hz), 2.29 (m, 1H), 1.84 (m, 1H), 1.19 (t, 3H, J 7.6 Hz).

reactant | 2-phenylchroman-4,6-diol | C1(=CC=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H14O3
reactant | 2-(4-ethylphenyl)-6-hydroxychroman-4one | 474 mg | C(C)C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)=O)O | C17H16O3
product | 2-(4Ethylphenyl)chroman-4,6-diol | C(C)C1=CC=C(C=C1)C1OC2=CC=C(C=C2C(C1)O)O | C17H18O3
